US04668697
Step A: Preparation of 6-acetylbenzo[b]thiophene
6-Acetyl-2,3-dibromobenzo[b]thiophene (6.68 g, 20 mmole) was dissolved in a mixture of ethanol and ethyl acetate (100 ml each) and MgO (1.6 g) and (20% Pd(OH2)/C (800 mg) were added under a N2 atmosphere. Hydrogenolysis was carried out at 40 psi of H2 at room temperature for 3 hours. The catalyst was removed by filtration and the solvent was removed in vacuo. The residue was partitioned between CHCl3 (100 ml) and H2O (50 ml). The CHCl3 layer was washed with H2O (50 ml). The aqueous layers were combined and back-extracted with CHCl3 (30 ml). The CHCl3 solutions were combined, dried over Na2SO4 and the solvent evaporated in vacuo to yield 3.8 g of product which was used in the next step without further purification.

reactant | 6-Acetyl-2,3-dibromobenzo[b]thiophene | 20 mmole, 6.68 g | C(C)(=O)C=1C=CC2=C(SC(=C2Br)Br)C1 | C10H6Br2OS
solvent | ethanol | C(C)O | C2H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 6-acetylbenzo[b]thiophene | 3.8 g | C(C)(=O)C=1C=CC2=C(SC=C2)C1 | C10H8OS
